US04599357
The solution of 0.052 g of 3-acetylthiopropanoyl chloride in 1 ml of methylene chloride is added slowly to the mixture of 60 mg of 3,3-dimethylindoline-2-carboxamide, 87 mg of potassium carbonate and 9 ml of methylene chloride. The mixture is stirred at room temperature overnight, diluted with methylene chloride and filtered. The filtrate is washed with saturated aqueous sodium bicarbonate, water, 0.5N hydrochloric acid and water, dried, evaporated and the residue crystallized from diethyl ether, to yield the 1-(3-acetylthiopropanoyl)-3,3-dimethylindoline-2-carboxamide melting at 156°-158°.

reactant | 3-acetylthiopropanoyl chloride | 0.052 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | 3,3-dimethylindoline-2-carboxamide | 60 mg | CC1(C(NC2=CC=CC=C12)C(=O)N)C | C11H14N2O
reactant | potassium carbonate | 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-acetylthiopropanoyl)-3,3-dimethylindoline-2-carboxamide | C(C)(=O)SCCC(=O)N1C(C(C2=CC=CC=C12)(C)C)C(=O)N | C16H20N2O3S
